US05773437
(1) 2-[3-(4-Benzyloxypiperidino)propyl]-2H-1,2-benzothiazin-4(3H)-one 1,1-Dioxide Free Base
In 1,2-dimethoxyethane (40 mL) was suspended 60% sodium hydride (180 mg, 4.5 mmol.), and then 2H-1,2-benzothiazin-4(3H)-one 1,1-dioxide ethylene ketal (1.00 g, 4.1 mmol.) was added to the suspension. The suspension was heated for 1 hour under stirring. The reaction liquid was cooled to 50° C., and to this was added a solution of 4-benzyloxy-1-(3-chloropropyl)piperidine (1.11 g, 4.1 mmol.) in 1,2-dimethoxyethane (10 mL). The mixture was further heated for 20 hours under refluxing. The reaction liquid was filtered to remove insolubles and the solvent was distilled off to give a residue. To the residue were added aqueous 9% hydrochloric acid (30 mL) and methanol (30 mL), and the mixture was heated for 15 min. under refluxing. The reaction liquid was placed under reduced pressure to distill methanol off. The residue was treated with ice-water, and the deposited oil was extracted with dichloromethane. The dichloromethane portion was washed with water and an aqueous saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was distilled off to leave a residue. The residue was treated by silica gel column chromatography (chloroform/methanol=30/1) to give the desired compound (860 mg, yield 45%) as a red oil.

reactant | sodium hydride | 4.5 mmol, 180 mg | [H-].[Na+]
reactant | 2H-1,2-benzothiazin-4(3H)-one 1,1-dioxide ethylene ketal | 4.1 mmol, 1.00 g | C1COC2(CNS(C3=C2C=CC=C3)(=O)=O)O1 | C10H11NO4S
reactant | 4-benzyloxy-1-(3-chloropropyl)piperidine | 4.1 mmol, 1.11 g | C(C1=CC=CC=C1)OC1CCN(CC1)CCCCl | C15H22ClNO
reactant | hydrochloric acid | 30 mL | Cl | ClH
solvent | 1,2-dimethoxyethane | 40 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | methanol | 30 mL | CO | CH4O
product | 2-[3-(4-Benzyloxypiperidino)propyl]-2H-1,2-benzothiazin-4(3H)-one 1,1-Dioxide | 860 mg, yield 45% | C(C1=CC=CC=C1)OC1CCN(CC1)CCCN1S(C2=C(C(C1)=O)C=CC=C2)(=O)=O | C23H28N2O4S
